### PR TITLE
Fix w.r.t. the master branches of Coq and MathComp

### PR DESCRIPTION
**Pull request by pi8027**
This can be compiled with https://github.com/math-comp/math-comp/pull/270 without the compatibility module `ssrnum.mc_1_9`.

### CODE REVIEW

File: theories/cauchyreals.v [hunk 1]
```diff
@@ -353,22 +353,23 @@ Lemma split_interval (a1 a2 r1 r2 x : F) :
...
-set l := minr _ _; set u := maxr _ _.
+set l : F := minr _ _; set u : F := maxr _ _.
 rewrite ler_pdivl_mulr ?gtr0E // -{2}[2%:R]ger0_norm ?ger0E //.
 rewrite -normrM mulrBl mulfVK ?pnatr_eq0 // ler_distl.
 rewrite opprB addrCA addrK (addrC (l + u)) addrA addrNK.
 rewrite -!mulr2n !mulr_natr !ler_muln2r !orFb.
-rewrite ler_minl ler_maxr !ler_distl.
-have [] := lerP=> /= a1N; have [] := lerP=> //= a1P;
+rewrite leIx lexU !ler_distl /=.
+set le := <=%R; rewrite {}/le.
```
Comment (pi8027) [inline theories/cauchyreals.v]: This is a dirty workaround for the subterm selection problem. I will manage to address this later.

**Comment by CohenCyril** [comment]
Thanks! @pi8027 and @affeldt-aist!!
